US06391874B1
N-(2-Methylsulphonylethyl)-trifluoroacetamide
A solution of N-(2-methylthioethyl)trifluoroacetamide (19.0 g, 109.7 mmol) in methanol (200 ml) was cooled to 0° C. using an ice bath. A suspension of Oxone™ (2KHSO5.KHSO4.K2SO4) (74.19 g, 120.67 mmol) in water (100 ml) was added portionwise over 10 minutes, and the reaction was stirred at room temperature for 24 hours. The methanol was removed in vacuo, water (600 ml) was added and the mixture was extracted with dichloromethane (3×300 ml). The combined extracts were dried (MgSO4), and concentrated in vacuo to give the title compound as a white solid (12.42 g, 56.7 mmol, 52%); δH CDCl3 7.33 (1H,br s), 3.93 (2H,q), 3.31 (2H,t), 3.02 (3H,s).

reactant | N-(2-methylthioethyl)trifluoroacetamide | 109.7 mmol, 19.0 g | CSCCNC(C(F)(F)F)=O | C5H8F3NOS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | methanol | 200 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | N-(2-Methylsulphonylethyl)-trifluoroacetamide | 56.7 mmol, 12.42 g, 52% | CS(=O)(=O)CCNC(C(F)(F)F)=O | C5H8F3NO3S
